US08076517B2
N′-(2,2-Dimethyl-propylidene)-hydrazinecarboxylic acid tert-butyl ester (12 g, 59.9 mmoles) was charged to a dried, 3-neck, 1 L round bottom flask with thermometer, magnetic stirrer, and nitrogen atmosphere. Anhydrous methylene chloride (200 mL) was charged to the flask using a catheter. The mixture was chilled to 0° C. with an ice bath. (R,R)-2-Allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine (24.07 g, 89.87 mmoles) was subsequently added to the flask under inert conditions. Within minutes, the originally light yellow solution turned transparent dark yellow. The reaction was stirred for 6 hr at 0° C., then allowed to warm to room temperature, and stirred overnight, while being monitored by TLC. The reaction was quenched by adding ca. 25 mL methanol, resulting in a lightening of color. The solution was concentrated and the residue was diluted with 100 mL of ethyl acetate and 100 mL of water. The phases were separated and the aqueous layer was extracted with ethyl acetate twice. The organic phases were combined, washed with brine, dried over Na2SO4 and concentrated. The resulting oil was purified by column chromatography using 10% ethyl acetate in hexanes. Purified (S)—N′-(1-tert-butyl-but-3-enyl)-hydrazinecarboxylic acid tert-butyl ester was obtained as an oil (2.87 g, 24.4% yield). An impure fraction was also collected (3.17 g). Rf=0.44 (5:1 hexanes:ethyl acetate, 12 visualization); 1H NMR (400 MHz, CDCl3) δ 6.07 (br, 1H, NH), 5.85 (m, 1H), 5.0 (dd, 2H), 2.6 (m, 1H), 2.33 (m, 1H), 2.3 (m, 1H), 1.4 (s, 9H), 0.9 (s, 9H).

reactant | N′-(2,2-Dimethyl-propylidene)-hydrazinecarboxylic acid tert-butyl ester | 59.9 mmoles, 12 g | C(C)(C)(C)OC(=O)NN=CC(C)(C)C | C10H20N2O2
reactant | (R,R)-2-Allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine | 89.87 mmoles, 24.07 g | C(C=C)[Si@@]1(OC([C@H](N1C)C)C1=CC=CC=C1)Cl | C13H18ClNOSi
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | (S)—N′-(1-tert-butyl-but-3-enyl)-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NN[C@@H](CC=C)C(C)(C)C | C13H26N2O2
